US05679688
Step A: 2-t-Butoxycarbonyl-3-phenylmethoxycarbonyl-2,3-diaza-bicyclo-[2.2.1]hept-5-ene:
To a stirred mixture of 1 g (4.34 mmol) of 1-benzyloxycarbonyl-2-t-butoxycarbonylhydrazine (Dutta et al., J.C.S. Perkin I, 1975, 1712-1720) in 30 ml of anhydrous methylene chloride 1.55 g (8.7 mmol) of N-bromosuccinimide was added at 0° C. and the stirring was continued for 1 hour with external cooling in an ice bath. The reaction mixture was washed with 10% aqueous sodium thiosulfate solution and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated to dryness in vacuo. The residue was redissolved in 15 ml of anhydrous ether, 0.57 g (8.7 mmol) of freshly distilled cyclopentadiene was added and the mixture was allowed to stay for I hour at room temperature. Evaporation to dryness under reduced pressure gave 0.77g (54% yield) of the title product as a colorless syrup; NMR (CDCl3) 1.44 (s, 9H, t-butoxy CH3); 1.7 (m, 2H, CH2 -7); 5.06 (m, 2H, CH-1,4); 5.15 (s, 2H, methoxy CH2); 6A (m, 2H, CH-5,6); 7.24 (m, 5H, aromatic).

reactant | 1-benzyloxycarbonyl-2-t-butoxycarbonylhydrazine | 4.34 mmol, 1 g | C(C1=CC=CC=C1)OC(=O)NNC(=O)OC(C)(C)C | C13H18N2O4
reactant | methylene chloride | 8.7 mmol, 30 ml, 1.55 g | C(Cl)Cl | CH2Cl2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 2-t-Butoxycarbonyl-3-phenylmethoxycarbonyl-2,3-diaza-bicyclo-[2.2.1]hept-5-ene | 0.77g, 54% yield | C(C)(C)(C)OC(=O)N1C2C=CC(N1C(=O)OCC1=CC=CC=C1)C2 | C18H22N2O4
